*$
* PART NUMBER: NJM4560D
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (C) Bee Technologies Inc. 2006
.Subckt NJM4560 OUT1 -IN1 +IN1 VEE +IN2 -IN2 OUT2 VCC
X_U1     +IN1 -IN1 VCC VEE OUT1 NJM4560_MODEL
X_U2     +IN2 -IN2 VCC VEE OUT2 NJM4560_MODEL
.ends  NJM4560
.subckt NJM4560_MODEL  1 2 3 4 5
  c1   11 12 7.1447E-12
  c2    6  7 24.750E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 286.77E3 -1E3 1E3 290E3 -290E3
  ga    6  0 11 12 1.8284E-3
  gcm   0  6 10 99 57.819E-9
  iee   3 10 dc 120.08E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 546.92
  rc2   4 12 546.92
  re1  13 10 115.78
  re2  14 10 115.78
  ree  10 99 1.6656E6
  ro1   8  5 375
  ro2   7 99 185
  rp    3  4 1.8131E3
  vb    9  0 dc 0
  vc    3 53 dc 1.8037
  ve   54  4 dc 1.8037
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=1.4118E3)
.model qx2 PNP(Is=1.008877E-15 Bf=1.6000E3)
.ends
*$
